US05574051
5-(6-Methyl-pyridine-2-sulfanyl)-thiazolidine-2,4-dione, (III)
This compound was prepared from 5-bromo-thiazolidine-2,4-dione and 2-methyl-6-mercaptopyridine (A. D. Dunn, R. Norrie, J. L'Hostis, and S. Marjot J. Prak. Chem.--Chem. Zt. 1992, 334, 119-125) according to the procedure described in Example 1: mp 114-115.

reactant | 5-bromo-thiazolidine-2,4-dione | BrC1C(NC(S1)=O)=O | C3H2BrNO2S
reactant | 2-methyl-6-mercaptopyridine | CC1=NC(=CC=C1)S | C6H7NS
product | 5-(6-Methyl-pyridine-2-sulfanyl)-thiazolidine-2,4-dione | CC1=NC(=CC=C1)SC2C(=O)NC(=O)S2 | C9H8N2O2S2
